US08071595B2
To a room temperature, stirred solution of 1-(4-methoxyphenyl)-4-methylpent-2-yne-1,4-diol (6.3 g, 0.029 mol) in DCM (50 mL), Dess Martin periodinane (31.2 g, 0.07 mol) was added and the reaction mixture was stirred for 3 h. The reaction mixture was then diluted with DCM (50 mL) and the combined organic layers were washed with a saturated NaHCO3 solution and water, dried over Na2SO4, filtered and then concentrated in vacuo to afford 4-hydroxy-1-(4-methoxyphenyl)-4-methylpent-2-yn-1-one (6 g, 96%) as an oil.

reactant | 1-(4-methoxyphenyl)-4-methylpent-2-yne-1,4-diol | 0.029 mol, 6.3 g | COC1=CC=C(C=C1)C(C#CC(C)(O)C)O | C13H16O3
reactant | Dess Martin periodinane | 0.07 mol, 31.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-1-(4-methoxyphenyl)-4-methylpent-2-yn-1-one | 6 g, 96% | OC(C#CC(=O)C1=CC=C(C=C1)OC)(C)C | C13H14O3
